### ISSUE TITLE
Incorrect simp tracing of class methods

### ISSUE THREAD

**Issue by JLimperg** [leanprover/lean4#2488]
### Prerequisites

* [X] Put an X between the brackets on this line if you have done all of the following:
    * Checked that your issue isn't already [filed](https://github.com/leanprover/lean4/issues).
    * Reduced the issue to a self-contained, reproducible test case.

### Description

It appears that when `simp` unfolds a class method, this is not recorded in the `UsedSimps`. As a result, the `simp only` call reported by `simp?` does not behave like the original `simp` call.

### Steps to Reproduce

MWE:

```lean
set_option tactic.simp.trace true

class HasProp (A) where
  toProp : A → Prop

export HasProp (toProp)

instance : HasProp Nat where
  toProp _ := True

example : toProp 0 := by
  simp [toProp]
  -- Expected: Try this: simp only [toProp]
  -- Actual:   Try this: simp only

-- # Working as intended

-- ## Structure methods

structure HasProp₂ (A) where
  toProp₂ : A → Prop

export HasProp₂ (toProp₂)

def hasProp₂_Nat : HasProp₂ Nat where
  toProp₂ _ := True

example : toProp₂ hasProp₂_Nat 0 := by
  simp only [hasProp₂_Nat]
  -- Try this: simp only [hasProp₂_Nat]

-- ## Regular defs

def toProp₃ (_ : Nat) : Prop := True

example : toProp₃ 0 := by
  simp [toProp₃]
  -- Try this: simp only [toProp₃]

-- ## Theorems about class methods

theorem toProp_def (n : Nat) : toProp n = True := rfl

example : toProp 0 := by
  simp [toProp_def]
  -- Try this: simp only [toProp_def]
```

### Versions

Current master.

**Comment by semorrison** [comment]
Yes, let's fix this!
